US04535791
A mixture of sodium ethoxide (100 mg, 1.47 mmoles) and ethanethiol (110 mg, 1.77 mmoles) in 7 ml of absolute ethanol is stirred under nitrogen at room temperature for 10 minutes. 1-(3-Chloro-2-pyrazinyl)-1-propanone (250 mg, 1.47 mmoles) in 5 ml absolute ethanol is added to the above mixture, and the reaction mixture is stirred for 4 hours at which time thin layer chromatography indicates that all of the starting materials have reacted. The mixture is poured into water (100 ml) and extracted with methylene chloride (3×10 ml), and the extracts are combined and washed with water (1×50 ml) and saturated NaCl solution (1×50 ml). After drying (MgSO4), the solvent is removed under reduced pressure to give an 87% yield of 1-(3-ethylthio-2-pyrazinyl)-1-propanone (m.p. 45°-48° C.).

reactant | sodium ethoxide | 1.47 mmoles, 100 mg | [O-]CC.[Na+]
reactant | ethanethiol | 1.77 mmoles, 110 mg | C(C)S | C2H6S
reactant | 1-(3-Chloro-2-pyrazinyl)-1-propanone | 1.47 mmoles, 250 mg | ClC=1C(=NC=CN1)C(CC)=O | C7H7ClN2O
reactant | water | 100 ml | O | H2O
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(3-ethylthio-2-pyrazinyl)-1-propanone | 87% yield | C(C)SC=1C(=NC=CN1)C(CC)=O | C9H12N2OS
